US09428509B2
3-Methoxy-N-methyl-4-((5-(pyridin-4-yl)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)benzamide
To a solution of 2-chloro-5-(pyridin-4-yl)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (1 equiv), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (0.2 equiv), tris(dibenzylideneacetone)dipalladium(0) (0.1 equiv), 4-amino-3-methoxy-N-methylbenzamide (1.1 equiv) in 1,4-dioxane (0.1 M) was added cesium carbonate (3 equiv). The reaction mixtures were heated, with microwave irradiation, in a microwave reactor at 150° C. for 2 h. The reaction mixture was quenched with saturated aqueous sodium chloride and then washed with ethyl acetate. The organic phase was combined and washed with saturated aqueous sodium chloride. The organic layer was dried (magnesium sulfate), filtered, and concentrated. The crude was purified by silica gel column chromatography (0-90%) ethyl acetate (with 10% 1N ammonia in MeOH) in hexane) to give the title compound (49.1%% yield) as yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm −0.11 (s, 9H) 0.85-0.93 (m, 2H) 1.68-1.82 (m, 2H) 2.06-2.18 (m, 2H) 2.79 (d, J=4.30 Hz, 3H) 3.51-3.66 (m, 4H) 3.77-3.86 (m, 2H) 3.96 (s, 3H) 5.47-5.55 (m, 1H) 5.56 (s, 2H) 7.50-7.57 (m, 2H) 7.71-7.76 (m, 2H) 7.83 (s, 1H) 7.92 (s, 1H) 8.34 (q, J=4.43 Hz, 1H) 8.52-8.60 (m, 3H); MS (ESI) m/z 605.6 [M+1]+.

reactant | 2-chloro-5-(pyridin-4-yl)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=NC=C2)COCC[Si](C)(C)C)OC2CCOCC2 | C22H29ClN4O3Si
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.2 equiv | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 4-amino-3-methoxy-N-methylbenzamide | 1.1 equiv | NC1=C(C=C(C(=O)NC)C=C1)OC | C9H12N2O2
reactant | cesium carbonate | 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 0.1 M | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.1 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-Methoxy-N-methyl-4-((5-(pyridin-4-yl)-4-((tetrahydro-2H-pyran-4-yl)oxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)benzamide | 49.1% | COC=1C=C(C(=O)NC)C=CC1NC=1N=C(C2=C(N1)N(C=C2C2=CC=NC=C2)COCC[Si](C)(C)C)OC2CCOCC2 | C31H40N6O5Si
